US06046232
Synthesis of α-(4-Benzyloxyphenyl)-N-cyclohexylnitrone
The title compound was prepared according to the procedure described in Example 42 using 4-benzyloxybenzaldehyde and N-cyclohexylhydroxylamine. The title compound was obtained in 81.2% yield as slightly yellowish solid, m.p. 129.0° C. (Rf =0.30 on a silica gel plate using hexanes:EtOAc, 1:1, v:v, as an eluant).

reactant | 4-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | N-cyclohexylhydroxylamine | C1(CCCCC1)NO | C6H13NO
product | α-(4-Benzyloxyphenyl)-N-cyclohexylnitrone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=[N+]([O-])C1CCCCC1 | C20H23NO2
